US04235924
(a) 2-[8-Trimethylsilyloxy-7-(ethylenedioxy)-2-cis-octenyl]-4-trimethylsilyloxycyclopent-2-en-1-one
To a stirred solution of 2.5 g. of 2-[8-hydroxy-7-(ethylenedioxy)-2-cis-octenyl]-4-hydroxycyclopent-2-en-1-one, 21 ml. of pyridine and 7 ml. of hexamethyldisilazane, cooled in an ice-water bath, is added dropwise via a syringe 3.5 ml. of chlorotrimethylsilane. The mixture is stirred at room temperature overnight, diluted with toluene and evaporated to dryness. The residue is treated with toluene and again evaporated to dryness. This residue is treated with hexane, filtered through diatomaceous earth and concentrated in vacuo giving 3.5 g. of the desired product as a yellow liquid. The residue is treated with toluene and evaporated to dryness. This residue is applied to 15 g. of silica gel and washed with 200 ml. of hexane followed by 200 ml. of ethyl acetate. The ethyl acetate extract is evaporated to a residue which is purified by dry column (2"×60") chromatography on 720 g. of silica gel, eluting with ethyl acetate. The solvent is evaporated in vacuo giving 510 mg. of the desired product.

reactant | 2-[8-hydroxy-7-(ethylenedioxy)-2-cis-octenyl]-4-hydroxycyclopent-2-en-1-one | OC1C(CCCC\C=C/C=2C(CC(C2)O)=O)OCCO1 | C15H22O5
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[8-Trimethylsilyloxy-7-(ethylenedioxy)-2-cis-octenyl]-4-trimethylsilyloxycyclopent-2-en-1-one | C[Si](OC1C(CCCC\C=C/C=2C(CC(C2)O[Si](C)(C)C)=O)OCCO1)(C)C | C21H38O5Si2
